US05856503
A mixture of 1.28 g of 4-(4-bromo-phenyl)-1H-benzo[d][1,2]oxazin-7-ol, 2.71 g of (E)-1,4-dibromo-2-butene and 1.74 g of potassium carbonate in 80 ml of acetone is stirred at 65° C. After cooling the reaction mixture is filtered and the filtrate is concentrated and purified by chromatography (silica gel, toluene/acetone 98:2). There are obtained 1.44 g of 7-(4-bromo-but-2-enyloxy)-4-(4-bromo-phenyl)-1H-benzo[d][1,2]oxazine, MS: m/e 437 (64%, M+, 2 Br).

reactant | 4-(4-bromo-phenyl)-1H-benzo[d][1,2]oxazin-7-ol | 1.28 g | BrC1=CC=C(C=C1)C1=NOCC2=C1C=CC(=C2)O | C14H10BrNO2
reactant | (E)-1,4-dibromo-2-butene | 2.71 g | BrC\C=C\CBr | C4H6Br2
reactant | potassium carbonate | 1.74 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | 7-(4-bromo-but-2-enyloxy)-4-(4-bromo-phenyl)-1H-benzo[d][1,2]oxazine | 1.44 g | BrCC=CCOC1=CC2=C(C(=NOC2)C2=CC=C(C=C2)Br)C=C1 | C18H15Br2NO2
